US04426525
In 30 ml of pyridine, 5.76 g of 3-tetradecyl-sn-glycerol is allowed to react with 8.39 g of p-toluenesulfonic acid chloride to give 9.6 g (81%) of 1,2-ditosyl-3-tetradecyl-sn-glycerol. This ditosyl compound (9.6 g) is dissolved in 80 ml of ethanol, followed by addition of 7.89 g of fused potassium acetate. After 40 hours of reflux, the reaction mixture is cooled and the resulting precipitates are removed by filtration. The solvent is distilled off and the residue is dissolved in a methanol solution (300 ml) containing 3 g of sodium methoxide. The solution is refluxed for 2 hours and the solvent is removed by distillation. To the residue are added chloroform and water for separation and the chloroform layer is washed with water, dried and subjected to chromatography on silica gel to give 2.82 g of 1-tetradecyl-sn-glycerol.

reactant | 3-tetradecyl-sn-glycerol | 5.76 g | C(CCCCCCCCCCCCC)OC[C@@H](CO)O | C17H36O3
reactant | p-toluenesulfonic acid chloride | 8.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-ditosyl-3-tetradecyl-sn-glycerol | 9.6 g, 81% | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H](OS(=O)(=O)C1=CC=C(C)C=C1)COCCCCCCCCCCCCCC | C31H48O7S2
